* C:\Users\evanb\Documents\LTspice\VCO\Draft5.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N007 N001 15V -15V N002 LM318
V§DC N005 0 5V
R1 N001 N005 10k
R2 N006 N005 10k
R4 N002 N001 10k
C1 N004 N003 100n
X§U2 0 N003 15V -15V N004 LM318
R3 N003 N002 1k
V1 15V 0 15
V2 0 -15V 15
R5 N007 N006 100
Q1 N006 N010 0 0 NPN
X§U3 N009 N004 15V -15V N008 LM318
R6 N009 0 10k
R7 N008 N009 10k
R8 N010 0 1k
R9 N008 N010 1k
V3 0 0 AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\evanb\AppData\Local\LTspice\lib\cmp\standard.bjt
.include "LM318.lib"
.tran 5m startup
* .ac dec 101 100 1Meg
.backanno
.end
